US09079865B2
A cold (−40° C.) solution of (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (0.35 g) in 1:1 CH2Cl2:EtOAc (200 mL) was treated with 1-aminopyrrolidine HCl (0.134 g). The mixture was then treated with T3P (50% in EtOAc; 0.77 ml, 1.3 eq.) followed by the slow addition of DIPEA (0.51 ml, 3.0 eq.). The reaction mixture was stirred for 30 min at −40° C. before being quenched with ice-water, and extracted with EtOAc (3×20 mL). The combined organic layers were washed with aqueous saturated brine, dried with anhydrous Na2SO4 and concentrated under reduced pressure (35° C., 20 mmHg) to afford 0.275 g of crude solid. Purification by column chromatography on silica gel (60-120 mesh size) using MeOH in CH2Cl2 as mobile phase afforded the pure desired (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N-(pyrrolidin-1-yl)acrylamide (7.0 mg yield: 1.7%): 1H NMR (400 MHz, DMSO-d6) δ, 9.49 (s, 1H), 8.95 (s, 1H), 8.53 (s, 2H), 8.28 (s, 1H), 7.4-7.38 (d, J=7.6 Hz, 1H), 5.87-5.84 (d, J=10.4 Hz, 1H), 2.86-2.81 (m, 4H), 1.74-1.73 (m, 4H); LCMS for C17H6F6N5O [M+H]+ 420.33. found 420.13 (RT 7.76 min, purity: 92.4%).

reactant | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.35 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)(F)F | C13H7F6N3O2
reactant | 1-aminopyrrolidine HCl | 0.134 g | Cl.NN1CCCC1
reactant | T3P | 0.77 ml, 1.3 eq. | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 0.51 ml, 3.0 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N-(pyrrolidin-1-yl)acrylamide | 7.0 mg, yield: 1.7% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NN1CCCC1)(F)F | C17H15F6N5O
